US06894195B2
Cis-Z 3-(2-chloro-1,1,1-trifluoro-2-propenyl)-2,2-dimethylcyclopropane carbonyl chloride (257 g) was charged to a reactor fitted with an agitator, thermometer, sub-surface nitrogen inlet and jacketed dropping funnel. Nitrogen sparging was applied to the acid chloride and maintained throughout subsequent processing. Molten 4-methyl-2,3,5,6-tetrafluorobenzyl alcohol (188.1 g) was charged to the dropping funnel. The temperature in the funnel was maintained at 80° C. The alcohol was charged to the acid chloride mixture over three hours. The maximum reaction temperature allowed during the addition was 45° C. On completion of the addition the temperature of the reaction mass was raised to 95° C. and held for 2 hours. GC analysis was used to determine if full conversion of acid chloride had occurred and that no excess reactants were remaining. The mixture was cooled to 60° C. and the molten reaction mass discharged, weighed and analysed. The reaction yielded 423.3 g of molten 4-methyl-2,3,5,6-tetrafluorobenzyl cis-3-((Z)-2-chloro-3,3.3-trifluoroprop-1-enyl)-2,2-dimethylcyclopropane carboxylate, analysis against a known standard showed this material to be 92.5 wt % giving an overall reaction yield of 96.5%.

reactant | Cis-Z 3-(2-chloro-1,1,1-trifluoro-2-propenyl)-2,2-dimethylcyclopropane carbonyl chloride | 257 g | Cl\C(\C(F)(F)F)=C/[C@H]1C([C@H]1C(=O)Cl)(C)C | C9H9Cl2F3O
reactant | 4-methyl-2,3,5,6-tetrafluorobenzyl alcohol | 188.1 g | CC1=C(C(=C(CO)C(=C1F)F)F)F | C8H6F4O
product | 4-methyl-2,3,5,6-tetrafluorobenzyl cis-3-((Z)-2-chloro-3,3.3-trifluoroprop-1-enyl)-2,2-dimethylcyclopropane carboxylate | 423.3 g, yield of 96.5% | Cl\C(=C/[C@H]1C([C@H]1C(=O)OCC1=C(C(=C(C(=C1F)F)C)F)F)(C)C)\C(F)(F)F | C17H14ClF7O2
